US08293768B2
Synthesis of 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylic acid
Following the procedure as described in Example 14, making variations as required to replace ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate with ethyl 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as a colorless solid in 78% yield: 1H NMR (300 MHz, DMSO-d6) δ 7.47-7.17 (m, 5H), 6.25 (s, 1H), 3.83-3.74 (m, 2H), 3.56-3.40 (m, 4H), 2.82 (t, J=7.4 Hz, 2H), 2.38 (s, 3H); MS (ES+) m/z 331.3 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
reactant | ethyl 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CCC1=CC=CC=C1)=O)C(=O)OCC | C19H22N2O3S
product | 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylic acid | 78% yield | CC1=C(SC(=C1)N1C(N(CC1)CCC1=CC=CC=C1)=O)C(=O)O | C17H18N2O3S
